US08309580B2
A mixture of 5-[4-(1-chloro-3-methylbutyl)-5-methylfuran-2-yl]-2-methoxypyridine (382 mg), ethyl 3-{[(4-aminophenyl)carbonyl](methyl)amino}propanoate (400 mg), sodium carbonate (170 mg) and sodium iodide (240 mg) in N,N-dimethylacetamide (10 mL) was stirred overnight at 80° C. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (25% ethyl acetate/hexane to 65% ethyl acetate/hexane) to give ethyl 3-[{[4-({1-[5-(4-methoxyphenyl)-2-methylfuran-3-yl]-3-methylbutyl}amino)phenyl]carbonyl}(methyl)amino]propanoate. Ethyl 3-[{[4-({1-[5-(4-methoxyphenyl)-2-methylfuran-3-yl]-3-methylbutyl}amino)phenyl]carbonyl}(methyl)amino]propanoate was dissolved in ethanol (2 mL) and tetrahydrofuran (2 mL) and 1N lithium hydroxide (1.0 mL) was added, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and water (10 mL) was added. The mixture was neutralized with 1N hydrochloric acid under ice-cooling, and stirred for 1 hr. The resulting precipitate was collected by filtration and dried to give the title compound (210 mg, 34%).

reactant | 5-[4-(1-chloro-3-methylbutyl)-5-methylfuran-2-yl]-2-methoxypyridine | 382 mg | ClC(CC(C)C)C=1C=C(OC1C)C=1C=CC(=NC1)OC | C16H20ClNO2
reactant | ethyl 3-{[(4-aminophenyl)carbonyl](methyl)amino}propanoate | 400 mg | NC1=CC=C(C=C1)C(=O)N(CCC(=O)OCC)C | C13H18N2O3
reactant | sodium carbonate | 170 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 240 mg | [I-].[Na+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | ethyl 3-[{[4-({1-[5-(4-methoxyphenyl)-2-methylfuran-3-yl]-3-methylbutyl}amino)phenyl]carbonyl}(methyl)amino]propanoate | COC1=CC=C(C=C1)C1=CC(=C(O1)C)C(CC(C)C)NC1=CC=C(C=C1)C(=O)N(CCC(=O)OCC)C | C30H38N2O5
